US08648066B2
(3S)-1-({2-[(3S)-3-aminopyrrolidin-1-yl]-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}sulfonyl)pyrrolidin-3-amine.
Prepared according to the method of example 5 by using 1,1-dimethylethyl[(3S)-1-({5-bromo-2-[(3S)-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)pyrrolidin-1-yl]pyridin-3-yl}sulfonyl)pyrrolidin-3-yl]carbamate (reagent preparation 40) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.56 (s, 1H), 8.55 (s, 1H), 8.53 (s, 1H), 7.74 (s, 1H), 7.52 (d, 1H), 7.01 (d, 1H), 5.12 (s, 2H), 4.47 (m, 2H), 4.32 (m, 3H), 4.22 (m, 1H), 4.05 (m, 2H), 3.85 (m, 1H), 3.74 to 3.56 (m, 5H), 2.85 (t, 2H), 2.59 (s, 2H), 2.35 (m, 2H), 2.22 (m, 2H), 1.70 (t, 2H), 0.93 (s, 6H); MS (EI) for C32H42N8O3S: 619 (MH+).

reactant | 1,1-dimethylethyl[(3S)-1-({5-bromo-2-[(3S)-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)pyrrolidin-1-yl]pyridin-3-yl}sulfonyl)pyrrolidin-3-yl]carbamate | CC(C)(C)N(C([O-])=O)[C@@H]1CN(CC1)S(=O)(=O)C=1C(=NC=C(C1)Br)N1C[C@H](CC1)NC(=O)OC(C)(C)C
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | (3S)-1-({2-[(3S)-3-aminopyrrolidin-1-yl]-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}sulfonyl)pyrrolidin-3-amine | N[C@@H]1CN(CC1)C1=NC=C(C=C1S(=O)(=O)N1C[C@H](CC1)N)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3CCC(CC23)(C)C)C1 | C32H42N8O3S
